US07713979B2
1-Bromo-3-bromomethyl-2,4-dichloro-benzene
By the method in Preparation 5 and using the reagents 1-bromo-2,4-dichloro-3-methyl-benzene (74.4 g, 310 mmol), N-bromosuccinimide (58.0 g, 326 mmol) and benzoyl peroxide (750 mg) affords the title compound as an amber oil (98.5 g, 99%):

reactant | 1-bromo-2,4-dichloro-3-methyl-benzene | 310 mmol, 74.4 g | BrC1=C(C(=C(C=C1)Cl)C)Cl | C7H5BrCl2
reactant | N-bromosuccinimide | 326 mmol, 58.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 750 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 1-Bromo-3-bromomethyl-2,4-dichloro-benzene | 98.5 g, 99% | BrC1=C(C(=C(C=C1)Cl)CBr)Cl | C7H4Br2Cl2
